US05262420
Preparation of 1-(3,4-dichlorophenyl)-4-(3-ethyl-4-pyridyl)-butane
1.83 g (15.1 mmol) of 3-ethyl-4-methypyridine and 4.05 g (15.1 mmol) of 1-bromo-3-(3,4-dichlorophenyl)-propane were reacted in the same manner as in Example 26. The reaction product was purified to obtain 2.18 g of the desired compound (yield: 46.9%). The resulting compound was identified as 1-(3,4-dichlorophenyl)-4-(3-ethyl-4-pyridyl)-butane (hereinafter referred to as compound 51) by the following analytical results.

reactant | 3-ethyl-4-methypyridine | 15.1 mmol, 1.83 g | C(C)C=1C=NC=CC1C | C8H11N
reactant | 1-bromo-3-(3,4-dichlorophenyl)-propane | 15.1 mmol, 4.05 g | BrCCCC1=CC(=C(C=C1)Cl)Cl | C9H9BrCl2
product | 1-(3,4-dichlorophenyl)-4-(3-ethyl-4-pyridyl)-butane | 2.18 g, yield: 46.9% | ClC=1C=C(C=CC1Cl)CCCCC1=C(C=NC=C1)CC | C17H19Cl2N
